US05152824
4.24 g (12 mmol) of phenyl N-[(N-dimethylsulfamoyl-N-methoxyamino)sulfonyl]carbamate was dissolved in 30 ml of dry benzene, and 1.6 g (10 mmol) of 3-methyl-5-phenyl-2-pyrazoline was added thereto. The mixture was refluxed for 5 minutes. The mixture was left to cool, and the solvent was distilled off under reduced pressure. The residue was purified by reverse phase column chromatography (CH3CN: H2O=7:3) to obtain 1.0 g of the desired 1-[(N-dimethylsulfamoyl-N-methoxyamino)sulfonylcarbamoyl]-3-methyl-5-phenyl-2-pyrazoline.

reactant | phenyl N-[(N-dimethylsulfamoyl-N-methoxyamino)sulfonyl]carbamate | 12 mmol, 4.24 g | CN(S(=O)(=O)N(OC)S(=O)(=O)NC(OC1=CC=CC=C1)=O)C | C10H15N3O7S2
reactant | 3-methyl-5-phenyl-2-pyrazoline | 10 mmol, 1.6 g | CC1=NNC(C1)C1=CC=CC=C1 | C10H12N2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-[(N-dimethylsulfamoyl-N-methoxyamino)sulfonylcarbamoyl]-3-methyl-5-phenyl-2-pyrazoline | 1.0 g | CN(S(=O)(=O)N(OC)S(=O)(=O)NC(=O)N1N=C(CC1C1=CC=CC=C1)C)C | C14H21N5O6S2
